US04152136
3-(3-cyclohexenyl)-5-(3-cyclohexylphenyl)-1-dimethylamino-4(1H)-pyridone
3-[4-(1-cyclobutenyl)phenyl]-5-methoxy-1-vinyl-4(1H)-pyridone, toluenesulfonate

reactant | 3-[4-(1-cyclobutenyl)phenyl]-5-methoxy-1-vinyl-4(1H)-pyridone | C1(=CCC1)C1=CC=C(C=C1)C1=CN(C=C(C1=O)OC)C=C | C18H17NO2
reactant | toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)[O-])C
product | 3-(3-cyclohexenyl)-5-(3-cyclohexylphenyl)-1-dimethylamino-4(1H)-pyridone | C1(CC=CCC1)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C1CCCCC1)N(C)C | C25H32N2O
